2127-12-23 08:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2127-12-22**] 03:00 PM
   [**12-22**]
   -- received chest PT throughout the day; brought up some sputum
   -- pt had bronch with removal of copius/thick muscus. CXR showed
   clearing of left lobe. Gram stain did not show any polys or bacteria
   Allergies:
   Ampicillin
   Rash;
   Codeine
   Nausea/Vomiting
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2127-12-21**] 08:20 AM
   Ceftriaxone - [**2127-12-23**] 12:04 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2127-12-22**] 03:10 PM
   Fentanyl - [**2127-12-22**] 03:10 PM
   Heparin Sodium (Prophylaxis) - [**2127-12-22**] 08:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-23**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 63 (60 - 86) bpm
   BP: 132/62(78) {132/56(77) - 182/96(110)} mmHg
   RR: 20 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    420 mL
                                                                    287 mL
   PO:
                                                                    270 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    150 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  1,015 mL
                                                                    575 mL
   Urine:
                                                                  1,015 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -595 mL
                                                                   -288 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Diminished breath sounds on left, clear on right
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   287 K/uL
   8.7 g/dL
   85 mg/dL
   3.3 mg/dL
   23 mEq/L
   4.4 mEq/L
   34 mg/dL
   106 mEq/L
   137 mEq/L
   25.5 %
   7.0 K/uL
        [image002.jpg]
                             [**2127-12-20**]  04:20 AM
                             [**2127-12-21**]  04:06 AM
                             [**2127-12-22**]  03:46 AM
                             [**2127-12-23**]  04:28 AM
   WBC
   9.0
   7.0
   8.5
   7.0
   Hct
   29.6
   28.9
   29.1
   25.5
   Plt
   [**Telephone/Fax (3) 11469**]87
   Cr
   4.0
   3.9
   3.6
   3.3
   Glucose
   87
   82
   90
   85
   Other labs: PT / PTT / INR:12.2/29.1/1.0, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 85 yo female with HTN, HLP, CKD stage 4, admitted with cough and
   pleuritic CP, found to have LLL pneumonia, now admitted to MICU with
   acute hypoxia and respiratory distress found to have complete
   opacification of her Left lung, now status post repeat bronchoscopy
   with removal of large mucous plug.
   # Hypoxia/respiratory distress: Signifcantly improved both clinically
   and radiographically after bronch secondary to mucus plug
   - cont CTX for CAP (day [**7-10**]); completed 5 day course of azithro
   - chest PT
   - bronchodilators
   - insulflator exsulflator
   - guaifenisen standing
   - mucomyst inhalers
   #. [**Last Name (un) **] on CKD4 - Muddy brown casts suggestive of ATN, most likely
   ischemic from prerenal failure vs NSAID induced ischemia.
   - hold ASA, NSAIDs, avoid nephrotoxins
   - renally-dose medications
   - cont home doxercalciferol (used for secondary hyperparathyroidism)
   - renal recs
   # Low bicarb: likey an acute metabolic acidosis secondary to [**Last Name (un) **].
   Delta/delta suggestive of combination of anion-gap and nonanion-gap
   metabolic acidosis.
   -Keep close eye on calcium and K and replete PRN
   -Continue bicarbonate 650mg PO TID
   #. Hypertension - Somewhat better control.
   -Continue diltiazem 60mg PO QID but consider extended release
   formulation
   #. Weakness - Pt endorses weakness, no appetite, over similar time
   course to illness, likely [**12-30**] pneumonia and now deconditioned. ?
   longer-term component.
   - PT consult
   - would benefit from rehabilitation stay prior to return home
   #. Hypothyroidism - cont home levothyroxine
   #. Hyperlipidemia - cont home statin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-12-22**] 01:00 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor

2127-12-23 10:39:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, mucous plugging
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BRONCHOSCOPY - At [**2127-12-22**] 03:00 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Ampicillin
   Rash;
   Codeine
   Nausea/Vomiting
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2127-12-21**] 08:20 AM
   Ceftriaxone - [**2127-12-23**] 12:04 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2127-12-22**] 03:10 PM
   Fentanyl - [**2127-12-22**] 03:10 PM
   Heparin Sodium (Prophylaxis) - [**2127-12-22**] 08:33 PM
   Other medications:
   sodium bicarb 650 po tid, dilt 60 qid, ceftriaxone 1g daily, heparin
   tid, simvastatin 40 daily, levothyroxine 150mcg daily, guaifenesin,
   albuteorl and mucomyst nebs.
   Changes to medical and family history:
   PMH, SH, FH and [**Year (4 digits) **] are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-23**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 69 (60 - 86) bpm
   BP: 151/69(89) {132/56(77) - 182/96(110)} mmHg
   RR: 22 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    420 mL
                                                                    305 mL
   PO:
                                                                    270 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    150 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  1,015 mL
                                                                    706 mL
   Urine:
                                                                  1,015 mL
                                                                    706 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -595 mL
                                                                   -402 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   287 K/uL
   85 mg/dL
   3.3 mg/dL
   23 mEq/L
   4.4 mEq/L
   34 mg/dL
   106 mEq/L
   137 mEq/L
   25.5 %
   7.0 K/uL
        [image002.jpg]
                             [**2127-12-20**]  04:20 AM
                             [**2127-12-21**]  04:06 AM
                             [**2127-12-22**]  03:46 AM
                             [**2127-12-23**]  04:28 AM
   WBC
   9.0
   7.0
   8.5
   7.0
   Hct
   29.6
   28.9
   29.1
   25.5
   Plt
   [**Telephone/Fax (3) 11469**]87
   Cr
   4.0
   3.9
   3.6
   3.3
   Glucose
   87
   82
   90
   85
   Other labs: PT / PTT / INR:12.2/29.1/1.0, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:4.3 mg/dL
   Imaging: CXR still with aeration of UL.
   Microbiology: culture data negative
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP):
   Continue ceftriaxone x 14 days, Continue efforts at mucous clearance.
   Chest PT, accapella, incentive spirometry, encourage cough and deep
   breathing.
   Rest of plan per HO note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-12-22**] 01:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
   Overnight, no new problems and chest radiograph remains
   similar/improved without any signs of re-collapse
   T 36.2 P 69  BP 150/80s  RR 22  Sat: 95%
   Awake, alert NAD
 doing a crossword puzzle
   Chest: left sided crackles
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: no edema
   Labs: as above
   CXR: LLL infiltrate
   Assessment:
   1)       Pneumonia
   2)       Lobar Collapse
 resolved
   Plan:
   1)       Continue antibiotics for pneumonia
   2)       Transfer to the floor
   Time Spent: 25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2127-12-23**] 04:28 PM ------